US05242930
(b) 2-(Diphenylhydroxymethyl)-1-azabicyclo[2.2.1]heptan-3-ol
2-(Diphenylhydroxymethyl)-1-azabicyclo[2.2.1]heptan-3-one (210 mg) was dissolved in THF (5 ml) at -78° C. under argon. Lithium aluminium hydride (3 ml, 1.0M in ether) was added and the mixture stirred at -78° C. for 30 min, and then warmed to room temperature whereupon the reaction mixture became homogeneous. Water (0.1 ml) was added followed by sodium hydroxide (0.35 ml, 3N) and water (0.35 ml) affording a granular precipitate. Solid sodium sulphate was added, the mixture was filtered and the filtrate evaporated. The resulting diol was used without further purification.

reactant | 2-(Diphenylhydroxymethyl)-1-azabicyclo[2.2.1]heptan-3-one | 210 mg | C1(=CC=CC=C1)C(C1N2CCC(C1=O)C2)(O)C2=CC=CC=C2 | C19H19NO2
reactant | Lithium aluminium hydride | 1.0M, 3 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 3N, 0.35 ml | [OH-].[Na+]
reactant | sodium sulphate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 0.35 ml | O | H2O
solvent | Water | 0.1 ml | O | H2O
product | 2-(Diphenylhydroxymethyl)-1-azabicyclo[2.2.1]heptan-3-ol | C1(=CC=CC=C1)C(C1N2CCC(C1O)C2)(O)C2=CC=CC=C2 | C19H21NO2
